US04841077
Ethanolamine (100 mg), was added to a solution of 4',5,7-trihydroxyisoflavonecarboxylate (100 mg) in 2 ml methanol, and the mixture was stirred at room temperature for 12 hours. The solvent was distilled off under reduced pressure, the residue was purified by silica gel column chromatography (chloroform:methanol=95:5), and the solid thus obtained was recrystallized from a methanol/diethyl ether mixed solvent, giving 40 mg of 4',5,7-trihydroxy-N-(2-hydroxyethyl)-2-isoflavonecarboxamide.

reactant | Ethanolamine | 100 mg | C(O)CN | C2H7NO
reactant | 4',5,7-trihydroxyisoflavonecarboxylate | 100 mg | OC1=CC=C(C2=C(OC3=CC(=CC(=C3C2=O)O)O)C(=O)[O-])C=C1
solvent | methanol | 2 ml | CO | CH4O
product | 4',5,7-trihydroxy-N-(2-hydroxyethyl)-2-isoflavonecarboxamide | 40 mg | OC1=CC=C(C2=C(OC3=CC(=CC(=C3C2=O)O)O)C(=O)NCCO)C=C1 | C18H15NO7
